US07834044B2
(d) 1-(1H-Imidazol-2-ylmethyl)-7-methoxy-1,2,3,4-tetrahydro-quinoline
Prepared analogously to Example 1, from 7-methoxy-1,2,3,4-tetrahydro-quinoline, imidazole-2-carboxaldehyde, zinc chloride and sodium cyanoborohydride in methanol. MS (ISP): 244.4 ([M+H]+).

reactant | 7-methoxy-1,2,3,4-tetrahydro-quinoline | COC1=CC=C2CCCNC2=C1 | C10H13NO
reactant | imidazole-2-carboxaldehyde | N1C(=NC=C1)C=O | C4H4N2O
reactant | sodium cyanoborohydride | C(#N)[BH3-].[Na+]
solvent | methanol | CO | CH4O
catalyst | zinc chloride | [Cl-].[Zn+2].[Cl-]
product | 1-(1H-Imidazol-2-ylmethyl)-7-methoxy-1,2,3,4-tetrahydro-quinoline | N1C(=NC=C1)CN1CCCC2=CC=C(C=C12)OC | C14H17N3O
